US05728370
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-carboxylic acid
2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole (10.0 g, 45.0 mmol; prepared according to WO-91/12024) was dissolved in dry THF (200 mL) under an argon atmosphere. The solution was cooled to -20° C. and n-butyllithium (20.0 mL, 50.0 mmol) in hexane was added. After attaining ambient temperature, the reaction mixture was transferred onto solid carbon dioxide (150 g) and allowed to stand overnight. Water (200 mL) was added and pH was adjusted to 10 using 2M aqueous NaOH. After washing with ether, the aqueous phase was acidified with 2M hydrochloric acid to pH 2 and extracted with ether (2*300 mL). The organic phases were dried (Na2SO4) and evaporated to give the pure product.

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole | CC1(OC2=C(O1)C=C1C(OC(O1)(C)C)=C2)C | C12H14O4
reactant | n-butyllithium | 50.0 mmol, 20.0 mL | C(CCC)[Li]
reactant | carbon dioxide | 150 g | C(=O)=O | CO2
reactant | NaOH | 2M | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | Water | 200 mL | O | H2O
product | 2,2,6,6-Tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxole-4-carboxylic acid | CC1(OC2=C(O1)C(=C1C(OC(O1)(C)C)=C2)C(=O)O)C | C13H14O6
